US06797823B1
N-(2,4-Difluorobenzyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (100 mg) was dissolved in toluene (5.0 ml) and triethylamine (1.0 ml) with heating. A solution of triphosgene (103 mg) in dichloromethane (1.0 ml) was then added to the solution, and the mixture was heated under reflux for 3 min. Next, 2,4-difluorobenzylamine (54 mg) was added thereto, and the mixture was heated under reflux for additional 5 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, followed by extraction with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/acetone (2/1) to give 123 mg (yield 80%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
reactant | triphosgene | 103 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,4-difluorobenzylamine | 54 mg | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
product | N-(2,4-Difluorobenzyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}urea | 123 mg, yield 80% | FC1=C(CNC(=O)NC2=C(C=C(C=C2)OC2=CC=NC3=CC(=C(C=C23)OC)OC)F)C=CC(=C1)F | C25H20F3N3O4
